US05071999
c) Ethyl 2-benzyl-5-fluoro-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
20.8 g (0.11 mol) of ethyl N-(2-fluoroallyl)-N -(2-oxoethyl)-carbamate are heated under reflux with 19 g (0.115 mol) of N-benzylglycine in 300 ml of toluene until evolution of CO2 is complete. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-(2-fluoroallyl)-N -(2-oxoethyl)-carbamate | 0.11 mol, 20.8 g | FC(CN(C(OCC)=O)CC=O)=C | C8H12FNO3
reactant | N-benzylglycine | 0.115 mol, 19 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | CO2 | C(=O)=O | CO2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-5-fluoro-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | C(C1=CC=CC=C1)N1C2CN(CC2(CC1)F)C(=O)OCC | C16H21FN2O2
